US09102682B2
To 5-bromo-2-nitropyridine (1.2 g, 5.9 mmol) in DMSO (4 mL) was added 1-(4-piperidyl)piperidine (1.0 g, 5.9 mmole) and triethyl amine (0.99 mL, 7.1 mmole). The contents were heated to 120 degrees in a CEM Discovery microwave system for 3 hours. The crude reaction was then loaded over a silica gel column and eluted with DCM/methanol (0-20%) to afford 2-nitro-5-[4-(1-piperidyl)-1-piperidyl]pyridine as an oil (457 mg). 1H NMR (600 MHz, DMSO-d6) δ ppm 1.26-1.36 (m, 2H) 1.43 (m, 6H) 1.76 (m, 2H) 2.37 (m, 5H) 2.94 (t, J=12.74 Hz, 2H) 4.06 (d, J=13.47 Hz, 2H) 7.41 (dd, J=9.37, 2.64 Hz, 1H) 8.08 (d, J=9.37 Hz, 1H) 8.20 (d, J=2.64 Hz, 1H).

reactant | 5-bromo-2-nitropyridine | 5.9 mmol, 1.2 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | 1-(4-piperidyl)piperidine | 5.9 mmole, 1.0 g | N1CCC(CC1)N1CCCCC1 | C10H20N2
reactant | triethyl amine | 7.1 mmole, 0.99 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 2-nitro-5-[4-(1-piperidyl)-1-piperidyl]pyridine | 457 mg | [N+](=O)([O-])C1=NC=C(C=C1)N1CCC(CC1)N1CCCCC1 | C15H22N4O2
